US08236826B2
Production of N-(6-{4-[4-(4-benzylpiperidine-1-carbonyl)piperazine-1-carbonyl]phenoxy}pyridin-3-yl)-3,4-dichlorobenzamide
To a solution of 1-{4-[5-(3,4-dichlorobenzoylamino)pyridin-2-yloxy]benzoyl}piperidine-4-carboxylic acid (4.5 g, 8.8 mmol) in DMF (88 mL) were added 1-benzylpiperazine (1.83 mL, 10.5 mmol), 1-hydroxybenzotriazole monohydrate (1.61 g, 10.5 mmol) and 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (2.02 g, 10.5 mmol) under ice cooling, and the resulting solution was stirred overnight at room temperature. To this reaction solution was added a saturated sodium bicarbonate solution, and the resulting solution was extracted with ethyl acetate. The ethyl acetate layer was washed with a saturated sodium bicarbonate solution and brine, dried over anhydrous magnesium sulfate, and evaporated. The residue was recrystallized from isopropyl alcohol (700 mL), to thereby yield 3.2 g of the title compound.

reactant | 1-{4-[5-(3,4-dichlorobenzoylamino)pyridin-2-yloxy]benzoyl}piperidine-4-carboxylic acid | 8.8 mmol, 4.5 g | ClC=1C=C(C(=O)NC=2C=CC(=NC2)OC2=CC=C(C(=O)N3CCC(CC3)C(=O)O)C=C2)C=CC1Cl | C25H21Cl2N3O5
reactant | 1-benzylpiperazine | 10.5 mmol, 1.83 mL | C(C1=CC=CC=C1)N1CCNCC1 | C11H16N2
reactant | 1-hydroxybenzotriazole monohydrate | 10.5 mmol, 1.61 g | O.ON1N=NC2=C1C=CC=C2
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 10.5 mmol, 2.02 g | Cl.C(C)N=C=NCCCN(C)C
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | DMF | 88 mL | CN(C)C=O | C3H7NO
product | N-(6-{4-[4-(4-benzylpiperidine-1-carbonyl)piperazine-1-carbonyl]phenoxy}pyridin-3-yl)-3,4-dichlorobenzamide | C(C1=CC=CC=C1)C1CCN(CC1)C(=O)N1CCN(CC1)C(=O)C1=CC=C(OC2=CC=C(C=N2)NC(C2=CC(=C(C=C2)Cl)Cl)=O)C=C1 | C36H35Cl2N5O4
